US07618959B2
b) 3-Oxo-3,4-dihydro-2H-benzo[1,4]oxazine-6-carboxaldehyde
(4-Formyl-2-nitrophenoxy)acetic acid ethyl ester (1.9 g) in acetic acid (40 mL) was treated with iron powder (4.2 g) and the mixture was stirred at 60° C. for 0.75 hours, filtered and evaporated to dryness. It was partitioned between aqueous sodium bicarbonate and ethyl acetate. The organic fraction was chromatographed on silica gel (ethyl acetate) to give a white solid (0.88 g). MS (−ve ion electrospray) m/e 176 (M−H)−.

reactant | (4-Formyl-2-nitrophenoxy)acetic acid ethyl ester | 1.9 g | C(C)OC(COC1=C(C=C(C=C1)C=O)[N+](=O)[O-])=O | C11H11NO6
solvent | acetic acid | 40 mL | C(C)(=O)O | C2H4O2
catalyst | iron | 4.2 g | [Fe] | Fe
product | 3-Oxo-3,4-dihydro-2H-benzo[1,4]oxazine-6-carboxaldehyde | 0.88 g | O=C1COC2=C(N1)C=C(C=C2)C=O | C9H7NO3
